US07105565B2
2-(2-cyclopropyl-1-methyl-ethyl)phenylamine
To a solution of 2.96 g (15.5 mmol) of 2-(2-aminophenyl)-1-cyclopropyl-propan-2-ol in 70 ml methanol is added 4.43 g (43.4 mmol) conc. sulfuric acid (96%). The resulting mixture is hydrogenated over 600 mg Pd/C(10%) for 20 hours at 30–35° C. After that time no more hydrogen uptake is detected. The catalyst is filtered off and the solvent removed in a water-jet vacuum. The residue is taken up in ethylacetate/water and the water phase is neutralised by the addition of sodium carbonate. The water phase is extracted twice with ethylacetate, then the combined organic phase is dried over sodium sulfate. After removal of the solvent in a water-jet vacuum, the crude amine is obtained. The obtained raw material is purified by column chromagraphy over silica gel (eluant: hexane/ether=5:1). Yield: 2.1 g 2-(2-cyclopropyl-1-methyl-ethyl)phenylamine in the form of a brown oil (1H-NMR).

reactant | 2-(2-aminophenyl)-1-cyclopropyl-propan-2-ol | 15.5 mmol, 2.96 g | NC1=C(C=CC=C1)C(CC1CC1)(C)O | C12H17NO
reactant | sulfuric acid | 43.4 mmol, 4.43 g | S(O)(O)(=O)=O | H2O4S
reactant | hydrogen | [H][H] | H2
solvent | methanol | 70 ml | CO | CH4O
catalyst | Pd/C | 600 mg | [Pd] | Pd
product | 2-(2-cyclopropyl-1-methyl-ethyl)phenylamine | C1(CC1)CC(C)C1=C(C=CC=C1)N | C12H17N
